US05025025
To a solution of 2679 g of 6-hydroxy-5-(2-propenyl)-hexanenitrile in 25 L of methylene chloride is added 2681 mL of triethylamine. The mixture is cooled to -10° in an ice salt bath and a solution of 2103 g of methanesulfonyl chloride in 2 L of methylene chloride is added dropwise over 3 hours keeping the temperature at -5°. After addition is complete, the mixture is stirred for 3 hours in an ice salt bath and then overnight at 10°. The mixture is washed with water, saturated sodium bicarbonate solution, water and then brine, dried over sodium sulfate, evaporated to dryness, and dried at 45°/3 mm Hg to yield 6-methanesulfonyloxy-5-(2-propenyl)-hexanenitrile.

reactant | 6-hydroxy-5-(2-propenyl)-hexanenitrile | 2679 g | OCC(CCCC#N)CC=C | C9H15NO
reactant | triethylamine | 2681 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2103 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 25 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
product | 6-methanesulfonyloxy-5-(2-propenyl)-hexanenitrile | CS(=O)(=O)OCC(CCCC#N)CC=C | C10H17NO3S
